US08048903B2
5-Iodo-1-phenyltetrazole
With vigorous stirring, a solution of 9.7 mmol (0.63 g) of sodium azide in 10 ml of water and 0.1 g of tetramethylammonium iodide are added to a mixture, cooled to 0° C., of 9.7 mmol (2.18 g) of N-iodosuccinimide in 10 ml of chloroform. After 5 minutes of stirring, a solution of 9.7 mmol (1 g) of phenyl isocyanide in chloroform is added dropwise, and the reaction mixture is stirred at 0° C. for 45 minutes. The reaction mixture is allowed to warm to room temperature, and a further 10 ml of chloroform are added. The phases are separated, and the organic phase is washed 3 times with water, once with saturated sodium thiosulfate solution, again with water and then with saturated sodium chloride solution. After drying over sodium sulfate, the solvent is distilled off under reduced pressure and the residue is recrystallized from ethanol or petroleum (bp.: 80 . . . 110° C.)/ethyl acetate. This gives 0.2 g (8%) of 5-iodo-1-phenyltetrazole of melting point 123-129° C.

reactant | sodium azide | 9.7 mmol, 0.63 g | [N-]=[N+]=[N-].[Na+]
reactant | N-iodosuccinimide | 9.7 mmol, 2.18 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | phenyl isocyanide | 9.7 mmol, 1 g | C1(=CC=CC=C1)[N+]#[C-] | C7H5N
solvent | water | 10 ml | O | H2O
catalyst | tetramethylammonium iodide | 0.1 g | [I-].C[N+](C)(C)C
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Iodo-1-phenyltetrazole | IC1=NN=NN1C1=CC=CC=C1 | C7H5IN4
